US04430339
(b) 4-(3-cyclohexylpropyloxy)-2-methylenebutyric acid ethyl ester
82.3 g of 4-(3-cyclohexylpropyloxy)-2-methylenebutyric acid ethyl ester, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: chloroform), are obtained by the procedure described in Example (1b) from 103.6 g of 2-(3-cyclohexylpropyloxy)-ethylmalonic acid ethyl ester, 11 g of paraformaldehyde, 105 ml of pyridine and 2.9 g of piperidine.

reactant | 2-(3-cyclohexylpropyloxy)-ethylmalonic acid ethyl ester | 103.6 g | C(C)OC(C(C(=O)O)CCOCCCC1CCCCC1)=O | C16H28O5
reactant | paraformaldehyde | 11 g | C=O | CH2O
reactant | piperidine | 2.9 g | N1CCCCC1 | C5H11N
solvent | pyridine | 105 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-cyclohexylpropyloxy)-2-methylenebutyric acid ethyl ester | C(C)OC(C(CCOCCCC1CCCCC1)=C)=O | C16H28O3
